US05576324
(2RS,3SR)-2-Aminomethyl-3-hydroxymethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one.
(2RS,3SR)-3-(tert-Butyldimethylsilyloxy)methyl-2-diallylaminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one (2.17 g, 4.62 mmol) was dissolved in a solvent mixture (60 ml) of tetrahydrofuran--N,N-dimethylformamide (5:1), to which tetra-n-butylammonium chloride (1.0 M tetrahydrofuran solution, 10 ml, 10.0 mmol) was added, followed by stirring at room temperature for 8 hours. The reaction mixture was condensed under reduced pressure, and the resultant residue was separated by silica gel column chromatography (chloroform--methanol =50:1). All the fractions that contain spots in the vicinity of Rf=0.4 were collected, and condensed under reduced pressure. The resultant residue was dissolved in ethanol (100 ml). To the solution, Wilkinson catalyst (140.0 mg, 0.15 mmol), 1,4-diazabicyclo[2,2,2]octane (200.0 mg, 1.78 mmol) and water (10 ml) were added, and the mixture was refluxed with heat for 2 hours. The reaction mixture was condensed under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform: saturated ammonia--methanol=50:1). Crude crystals were obtained (500 The crude crystals were dissolved in a solvent mixture of chloroform and methanol (4:1), to which 4N-HCl--dioxane (0.6 ml, 2.40 mmol) was added. The resultant mixture was condensed under reduced pressure, then subjected to azeotropic distillation along with methanol (twice). The residue was recrystallized from methanol--ether. 521.7 mg of the title compound was obtained as pale yellow powdery crystals (38.1%).

reactant | (2RS,3SR)-3-(tert-Butyldimethylsilyloxy)methyl-2-diallylaminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 4.62 mmol, 2.17 g | [Si](C)(C)(C(C)(C)C)OCC1C(OC2=C3C=CC(NC3=C(C=C21)C)=O)CN(CC=C)CC=C | C26H38N2O3Si
reactant | 1,4-diazabicyclo[2,2,2]octane | 1.78 mmol, 200.0 mg | N12CCN(CC1)CC2 | C6H12N2
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran N,N-dimethylformamide | 60 ml | O1CCCC1.CN(C=O)C
catalyst | tetra-n-butylammonium chloride | 10.0 mmol, 1.0 M, 10 ml | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | (2RS,3SR)-2-Aminomethyl-3-hydroxymethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 521.7 mg | NCC1C(C=2C(=C3C=CC(NC3=C(C2)C)=O)O1)CO | C14H16N2O3
